US08975264B2
Step 2: Preparation of 4-(4-chlorophenyl)-3-cyclopropyl-1H-pyrazol-5-amine (Chemical Formula 79)
2-(4-Chlorophenyl)-3-cyclopropyl-3-oxopropanenitrile(7.74 g), hydrazine hydrate (3.5 mL) and acetic acid (7.5 mL) are dissolved in a toluene solvent and stirred for 16 hours while heating. Upon completion of reaction, after cooling to room temperature, the solvent is removed by distillation under reduced pressure. The remainder is extracted with water and ethyl acetate. The extracted organic layer is dehydrated and distilled under reduced pressure. The remainder is purified by column chromatography to yield 5.2 g of the target compound. 1H NMR (CDCl3, 300 MHz): δ 7.40 (m, 4H), 3.75 (br, 2H), 1.86 (m, 1H) 0.93 (m, 2H), 0.65 (m, 2H).

reactant | 2-(4-Chlorophenyl)-3-cyclopropyl-3-oxopropanenitrile | 7.74 g | ClC1=CC=C(C=C1)C(C#N)C(=O)C1CC1 | C12H10ClNO
reactant | hydrazine hydrate | 3.5 mL | O.NN
reactant | acetic acid | 7.5 mL | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4-chlorophenyl)-3-cyclopropyl-1H-pyrazol-5-amine | 5.2 g | ClC1=CC=C(C=C1)C=1C(=NNC1N)C1CC1 | C12H12ClN3
